US07977358B2
[5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-[4-(3-hydroxy-propyl)-piperazin-1-yl]-methanone
In analogy to the procedure described in Example 181, 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid (Example 16C]) and 1-piperazinepropanol gave after suspending in a small amount of EtOAc and filtration the title compound in 59% yield as light yellow powder. MS: 459.3 (MH+).

reactant | 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C2=C(C(=NN2C)C(=O)O)C | C20H16N2O3
reactant | 1-piperazinepropanol | N1(CCNCC1)CCCO | C7H16N2O
product | [5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-[4-(3-hydroxy-propyl)-piperazin-1-yl]-methanone | 59% yield | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C2=C(C(=NN2C)C(=O)N2CCN(CC2)CCCO)C | C27H30N4O3
